US06884607B2
35 g of 4-cyano-3-hydroxybutanoic acid was dissolved in 250 g of ethyl acetate, and 41 g of triethylamine and 54 g of diethyl sulfate were added thereto at room temperature. Then, the mixture was stirred at an internal temperature of 55 to 60° C. for 30 minutes. After the reaction solution was left cooled down to room temperature, it was added to a saturated sodium bicarbonate solution, and ethyl acetate was used for extraction. The organic layer was washed with saturated saline solution, and the residue obtained by concentrating under reduced pressure was subjected to distillation under reduced pressure, whereby 24.5 g of ethyl 4-cyano-3-hydroxybutanoate was obtained. The purity of the obtained ethyl 4-cyano-3-hydroxybutanoate was 99% (gas chromatography in area percentage).

reactant | 4-cyano-3-hydroxybutanoic acid | 35 g | C(#N)CC(CC(=O)O)O | C5H7NO3
reactant | triethylamine | 41 g | C(C)N(CC)CC | C6H15N
reactant | diethyl sulfate | 54 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 250 g | C(C)(=O)OCC | C4H8O2
product | ethyl 4-cyano-3-hydroxybutanoate | 24.5 g | C(#N)CC(CC(=O)OCC)O | C7H11NO3
